US05317016
To a solution of (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol (12.0 g) in dichloromethane (180 ml) stirring under ice cooling, triethylamine (6.23 ml), p-toluenesulfonyl chloride (8.52 g) and N,N-dimethylaminopyridine (993 mg) are successively added. The mixture is heated to reflux for 3 hours, supplemented with triethylamine (0.57 ml) and p-toluenesulfonyl chloride (775 mg), and heated to reflux for 1 hour. The reaction mixture is acidified with dilute hydrochloric acid. The organic layer is taken, washed with water, dried over sodium sulfate and concentrated in vacuo. The residue is purified by silica gel column chromatography and recrystallized from n-hexane to give (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate (16.8 g). Yield: 92%. mp. 65° to 66° C. NMR δ(CDCl3) ppm: 1.42(s, 9H), 2.15 to 2.55(m, 2H), 2.45(s, 3H), 3.03(s, 3H), 3.3 to 4.5(m, 5H), 5.1 to 5.25(m, 1H), 7.35(d, J=8.0 Hz, 2H), 7.76(d, J=8.0 Hz, 2H). IR ν (CHCl3) cm-1 : 1693.

reactant | (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol | 12.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CO | C11H21NO6S
reactant | triethylamine | 6.23 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 8.52 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 775 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate | 16.8 g, Yield: 92% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)C | C18H27NO8S2
